* Z:\mnt\design.r\spice\examples\1934.asc
C1 N001 N002 .01µ
L1 N002 OUT 22µ
R1 OUT N004 16.5K
R2 0 N004 10K
D1 0 N002 MBRS130L
D2 OUT N001 BAT54
V1 IN 0 5
C2 OUT 0 22µ
C3 N003 0 .1µ
R3 IN N003 15K
XU1 N001 0 N004 N003 IN N002 LT1934
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1934.sub
.backanno
.end
